US20010049385A1
4-(2-Chlorophenoxymethyl)-1,4,5,6,7,8-hexahydrocycloheptaimidazole, hydrochloride salt
Using a procedure similar to that described in Example 22 and starting from (1-triphenylmethyl-1,4,5,6,7,8-hexahydrocycloheptaimidazole-4-yl)methanol (0.20 g, 0.49 mmol) and 2-chlorophenol (0.1 ml, 1 mmol) 94 mg (61%) of the title compound was obtained as a solid.

reactant | (1-triphenylmethyl-1,4,5,6,7,8-hexahydrocycloheptaimidazole-4-yl)methanol | 0.49 mmol, 0.20 g | C1(=CC=CC=C1)C(N1C=NC2=C1CCCCC2CO)(C2=CC=CC=C2)C2=CC=CC=C2 | C28H28N2O
reactant | 2-chlorophenol | 1 mmol, 0.1 ml, 94 mg | ClC1=C(C=CC=C1)O | C6H5ClO
product | 4-(2-Chlorophenoxymethyl)-1,4,5,6,7,8-hexahydrocycloheptaimidazole, hydrochloride salt | Cl.ClC1=C(OCC2CCCCC=3NC=NC32)C=CC=C1 | InChI=1S/C15H17ClN2O.ClH/c16-12-6-2-4-8-14(12)19-9-11-5-1-3-7-13-15(11)18-10-17-13;/h2,4,6,8,10-11H,1,3,5,7,9H2,(H,17,18);1H
